US07186724B2
Equip a 22-L, 3-necked, round-bottom flask with a mechanical stirrer, nitrogen bubbler, and a thermocouple probe, charge with 1.20 kg (5.55 mole) of 2-nitro-4-trifluoromethylbenzonitrile, 589.3 g (496 mL, 5.55 mole) of methyl thioglycolate, and 4.3 L of NMP. Cool the resulting yellow solution to 2° C., and add slowly, over a period of 78 min a solution prepared from 466.0 g (11.11 mole, 2.0 eq) of lithium hydroxide monohydrate in 3.36 L of water while maintaining the temperature between 2–20° C. Allow the brown slurry to warm to 21° C. over a 2 h period, and then dilute with 8.0 L of water (observe exotherm->27° C.). Stir for 40 min and cool to 18° C., collect the product by filtration, rinsing with 10 L of water, then air-drying at ambient temperature to give 1.295 kg (84.7% yield) of 2-carbomethoxy-3-amino-6-trifluoromethylbenzo[b]thiophene, as a light-yellow solid, 99.8% pure by HPLC assay.

reactant | 2-nitro-4-trifluoromethylbenzonitrile | 5.55 mole, 1.20 kg | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F3N2O2
reactant | methyl thioglycolate | 5.55 mole, 496 mL, 589.3 g | C(CS)(=O)OC | C3H6O2S
reactant | NMP | 4.3 L | CN1CCCC1=O | C5H9NO
reactant | lithium hydroxide monohydrate | 11.11 mole, 466.0 g, 2.0 eq | O.[OH-].[Li+]
solvent | water | 3.36 L | O | H2O
solvent | water | 8.0 L | O | H2O
product | 2-carbomethoxy-3-amino-6-trifluoromethylbenzo[b]thiophene | 1.295 kg, 84.7% yield | C(=O)(OC)C1=C(C2=C(S1)C=C(C=C2)C(F)(F)F)N | C11H8F3NO2S
